US05702642
Into a reactor, 30 g of 6-bromo-1-hexanol, 18.4 g of triethylamine, and 500 ml of benzene were charged, to which a solution of 16.5 g of acryloyl chloride in 200 ml of benzene was added dropwise, while stirring and cooling with ice, and stirred for 3 hours to give a reaction solution. The reaction solution was washed with a 3N-HCl and then with water, dried over sodium sulfate anhydride, and thereafter the solvent was evaporated and the residue was purified by the silica gel column chromatography (eluent; toluene) to give 25.4 g (Y., 65.1%) of 6-bromohexyl acrylate.

reactant | 6-bromo-1-hexanol | 30 g | BrCCCCCCO | C6H13BrO
reactant | triethylamine | 18.4 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 16.5 g | C(C=C)(=O)Cl | C3H3ClO
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 6-bromohexyl acrylate | 25.4 g, 65.1% | C(C=C)(=O)OCCCCCCBr | C9H15BrO2
